US05952386
To a solution of 0.20 g of 3,5-dichloro-4-(2-aminoethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene and 0.10 g of triethylamine dissolved in 5 ml of dichloromethane was added dropwise a solution of 0.16 g of 4-trifluoromethoxybenzenesulfonyl chloride dissolved in 5 ml of dichloromethane, while stirring under ice cooling. After stirring at room temperature for 6 hours, the reaction mixture was concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.20 g of 3,5-dichloro-4-(2-(4-trifluoromethoxybenzenesulfonamido)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene (60% yield), nD23.0 1.5470.

reactant | 3,5-dichloro-4-(2-aminoethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.20 g | ClC=1C=C(C=C(C1OCCN)Cl)OCC=C(Cl)Cl | C11H11Cl4NO2
reactant | triethylamine | 0.10 g | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethoxybenzenesulfonyl chloride | 0.16 g | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3,5-dichloro-4-(2-(4-trifluoromethoxybenzenesulfonamido)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.20 g, 60% yield | ClC=1C=C(C=C(C1OCCNS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)Cl)OCC=C(Cl)Cl | C18H14Cl4F3NO5S
